US05750530
6-dimethylaminohexanol was suspended in CH2Cl2 and treated with p-toluenesulphonic anhydride in the presence of triethylamine for 1 hour at 0° C. The reaction mixture was then treated with potassium thioacetate in DMF at 50° C. for a further hour. The resulting compound, AcS(CH2)6NMe2, was treated with sodium carbonate in methanol at room temperature for 20 hours to give 6-(dimethylamino)hexanethiol. This was suspended in dry DMSO at room temperature and sodium hydride was added. The reaction mixture was left stirring for 30 mixtures. 5-bromo-2-thiophenecarboxaldehyde in DMSO was then added and the reaction mixture was warmed to 80° C. for 30 minutes to give the title compound. This is the starting aldehyde used in the preparation of compound 5442.

reactant | 6-dimethylaminohexanol | CN(CCCCCCO)C | C8H19NO
reactant | p-toluenesulphonic anhydride | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
reactant | potassium thioacetate | C(C)(=S)[O-].[K+]
reactant | AcS(CH2)6NMe2 | C(=O)(C)SCCCCCCN(C)C | C10H21NOS
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 6-(dimethylamino)hexanethiol | CN(CCCCCCS)C | C8H19NS
